US07547710B2
To a solution of (6-chloro-2-isobutyl-4-phenylquinolin-3-yl)methanol (0.70 g, 2.15 mmol) in toluene (15 ml) was added thionyl chloride (0.31 ml, 4.3 mmol), and the mixture was heated under reflux for 1 hr. The reaction mixture was partitioned between ethyl acetate (100 ml) and saturated aqueous sodium hydrogen carbonate (50 ml). The organic layer was washed with saturated brine (20 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was dissolved in N,N-dimethylformamide (10 ml). Thereto was added potassium phthalimide (0.6 g, 3.2 mmol) and the mixture was stirred at room temperature for 2.5 days. The reaction mixture was partitioned between ethyl acetate (100 ml) and saturated aqueous sodium hydrogen carbonate (50 ml)-water (50 ml). The aqueous layer was extracted with ethyl acetate (50 ml) and the extract and the organic layer were combined. The mixture was washed twice with water (50 ml) and then saturated brine (50 ml), and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography to give 2-[(6-chloro-2-isobutyl-4-phenylquinolin-3-yl)methyl]-1-H-isoindole-1,3(2H)-dione (0.55 g, yield 57%) as an orange oil.

reactant | (6-chloro-2-isobutyl-4-phenylquinolin-3-yl)methanol | 2.15 mmol, 0.70 g | ClC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CO)C1=CC=CC=C1 | C20H20ClNO
reactant | thionyl chloride | 4.3 mmol, 0.31 ml | S(=O)(Cl)Cl | Cl2OS
reactant | potassium phthalimide | 3.2 mmol, 0.6 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[(6-chloro-2-isobutyl-4-phenylquinolin-3-yl)methyl]-1-H-isoindole-1,3(2H)-dione | 0.55 g, yield 57% | ClC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C28H23ClN2O2
